US06436959B1
A solution of 4.5 mL (30 mmol) of N-propyl-4-piperidone, 3.4 mL (30 mmol) of m-anisidine, and 1.7 mL (30 mmol) of glacial acetic acid was stirred in 120 mL of 1,2-dichloroethane (DCE) and 9.49 g (45 mmol) of sodium triacetoxyborohydride was added. The solution was stirred at 25° C. for 3 h. The solution was washed with NaHCO3 solution and brine. It was dried and the solvent was evaporated. The m-anisidine excess was distilled off in a Kugelrohr at 100° C./0.05 Torr. There was obtained 3.5 g (47% yield) of N-(3-methoxyphenyl)-1-propyl-4-piperidinamine as a solid. MS m/z=249 (M++H). 300 MHz 1H NMR (CDCl3) δ7.1 (t, 1H); 6.15-6.35 (m, 3H); 3.75 (s, 3H ); 3.25 (m, 1H); 2.9 (m, 2H); 2.3 (m, 2H); 2.15 (m, 4H); 1.5 (m, 4H); 0.9 (t, 3H). Anal calcd. for C15H24N2O; C, 72.54; H, 9.74; N, 11.28. Found: C, 72.55; H, 9.51; N, 11.21.

reactant | N-propyl-4-piperidone | 30 mmol, 4.5 mL | C(CC)N1CCC(CC1)=O | C8H15NO
reactant | m-anisidine | 30 mmol, 3.4 mL | COC1=CC(=CC=C1)N | C7H9NO
reactant | acetic acid | 30 mmol, 1.7 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 45 mmol, 9.49 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 120 mL | ClCCCl | C2H4Cl2
product | N-(3-methoxyphenyl)-1-propyl-4-piperidinamine | 3.5 g, 47% yield | COC=1C=C(C=CC1)NC1CCN(CC1)CCC | C15H24N2O
